US05753664
1-[4-(4-Fluorobenzoyl)benzyl]-5-methyl-1H-pyrrolo-[2,3-d]pyridazin-4(5H)-one
A solution of 5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one (373 mg) in DMF (10 ml) was dripped into a suspension of 60% sodium hydride-oil (120 mg) in DMF (10 ml) on an ice-water bath. The mixture was stirred at room temperature for 1 hour, after which a solution of 4-(4-fluorobenzoyl)benzyl bromide (806 mg) in DMF (20 ml) was added and the mixture was further stirred at room temperature for 13 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer; dichloromethane: methanol=99:1) to provide the title compound as white powder (615 mg, yield 68%).

reactant | 5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one | 373 mg | CN1N=CC2=C(C1=O)C=CN2 | C7H7N3O
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 4-(4-fluorobenzoyl)benzyl bromide | 806 mg | FC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrFO
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-Fluorobenzoyl)benzyl]-5-methyl-1H-pyrrolo-[2,3-d]pyridazin-4(5H)-one | 615 mg, yield 68% | FC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3C=NN(C4=O)C)C=C2)C=C1 | C21H16FN3O2
